US04489089
N-[4-(1H-Imidazol-1-yl)butyl]-2-furanecarboxamide
A portion of 1H-imidazole-1-butanamine dihydrochloride was then reacted with furoyl chloride as described in Example 1, giving the desired product, m.p. 88°-90° C.

reactant | 1H-imidazole-1-butanamine dihydrochloride | Cl.Cl.N1(C=NC=C1)CCCCN
reactant | furoyl chloride | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
product | N-[4-(1H-Imidazol-1-yl)butyl]-2-furanecarboxamide | N1(C=NC=C1)CCCCNC(=O)C=1OC=CC1 | C12H15N3O2
